US06127583
In recent year, Polymer. Prepar. 1993, 34(1), 511-12. and Japanese Laid Open Patent HEI 8-217698 have described a process that 3- or 4-halophenol having a protected hydroxyl group, when necessary, is subjected to coupling with trimethylsilylacetylene or other monosilylacetylene in a triethylamine solvent in the presence of a palladium catalyst and thereafter subjected to removing of the silyl group and where necessary, deprotecting of the hydroxyl group to obtain desired hydroxyphenylacetylene in a considerably high yield of 60 to 80%.

reactant | Prepar | C[C@@H]([C@@H](C1=CC=C(C=C1)O)O)NCCC2=CC=C(C=C2)O | C17H21NO3
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | monosilylacetylene | [SiH3]C#C | C2H4Si
reactant | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | palladium | [Pd] | Pd
product | hydroxyphenylacetylene | yield of 60 to 80% | OC#CC1=CC=CC=C1 | C8H6O
